US06528535B2
Step 1: 6-[3-(1-Trityl-1H-imidazole-4-yl)-propoxy]-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 32, Step 1, 3-[1-(triphenylmethyl)-1H-imidazole-4-yl]propanol (see for example, J. Med. Chem., 1996;39: 1220-1226) (2.58 g, 7 mmol) was coupled to 6-hydroxy tetralone (1.30 g, 7 mmol) with diethylazodicarboxylate (1.26 mL, 8 mmol) and triphenylphosphine (2.10 g, 8 mmol) in 10 mL of dry THF to afford, after chromatography (SiO2, 50% EtOAc in hexanes), 2.73 g of a 1:1 mixture of the title compound and Ph3PO as determined by HPLC analysis (C18, 0.1% TFA in H2O:0.1% TFA in AcCN gradient 80:20 to 20:80): title compound, retention time=15.87 minutes (48.2%); Ph3PO, retention time=13.12 minutes (50.1%). CI-MS m/e 279 (Ph3PO), 513 (M++1).

reactant | 3-[1-(triphenylmethyl)-1H-imidazole-4-yl]propanol | 7 mmol, 2.58 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | 6-hydroxy tetralone | 7 mmol, 1.30 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | diethylazodicarboxylate | 8 mmol, 1.26 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 8 mmol, 2.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Ph3PO | P(=O)(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15OP
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-[3-(1-Trityl-1H-imidazole-4-yl)-propoxy]-3,4-dihydro-2H-naphthalen-1-one | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCCOC=1C=C2CCCC(C2=CC1)=O | C35H32N2O2
